US08802864B2
a) 4-(4-bromophenyl)-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride
In a round bottom flask under nitrogen, 1,1-dimethylethyl (3S)-3-{[4-(4-bromophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate (3.54 mmol) in 4M HCl in dioxane (40 mmol) was stirred at room temperature for 2 h. The solvent was removed by concentration in vacuo to give the title compound as the HCl salt (1.25 g, 96% yield). MS(ES)+ m/e 322.9, 325.0 [M+H]+.

reactant | 1,1-dimethylethyl (3S)-3-{[4-(4-bromophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-1-pyrrolidinecarboxylate | 3.54 mmol | BrC1=CC=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)OC(C)(C)C | C18H23BrN4O3
reactant | dioxane | 40 mmol | O1CCOCC1 | C4H8O2
reactant | HCl | 4M | Cl | ClH
product | 4-(4-bromophenyl)-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one Hydrochloride | 1.25 g, 96% yield | Cl.BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CNCC1)=O | InChI=1S/C13H15BrN4O.ClH/c14-10-1-3-11(4-2-10)18-12(16-17-13(18)19)7-9-5-6-15-8-9;/h1-4,9,15H,5-8H2,(H,17,19);1H/t9-;/m0./s1
